US06156700
Preparation of 5-Chloro-1-methyl-3-(3-methyl-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 1-methyl-3-(3-methyl-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (1.00 g, 0.00293 mol), sulfuryl chloride (2.00 g 0.0148 mol) and 1,2-dichloroethane is stirred for five hours at reflux, cooled to room temperature, and diluted with methylene chloride. The resultant mixture is washed with saturated sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to obtain a residue. The residue is chromatographed on silica gel with ethyl acetate/hexanes to afford the title product as a white solid (0.350 g, 31.8%, mp 252-254° C.) which is identified by NMR spectral analysis.

reactant | 1-methyl-3-(3-methyl-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00293 mol, 1.00 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C)C1)=O | C14H10F3N3O2S
reactant | sulfuryl chloride | 0.0148 mol, 2.00 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Chloro-1-methyl-3-(3-methyl-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.350 g, 31.8% | ClC=1C(N(C(N(C1C(F)(F)F)C)=O)C=1C=CC2=C(C(=NS2)C)C1)=O | C14H9ClF3N3O2S
